US07514583B2
3,4-dibenzyloxybenzoyl chloride
3,4-dibenzyloxybenzoic acid (3.1 g. 9.3 mmol) was combined with pyridine (5 drops, catalytic) and thionyl chloride (15 ml, 205 mmol). The solution was heated at reflux for 4 h, cooled, and excess thionyl chloride removed under reduced pressure. The crude product was dissolved in benzene (50 ml), and stripped of solvent under vacuum. The benzoyl chloride (theoretical yield 3.4 g) was then dissolved in dichloromethane and used directly in the next step.

reactant | 3,4-dibenzyloxybenzoic acid | 9.3 mmol, 3.1 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=CC1OCC1=CC=CC=C1 | C21H18O4
reactant | thionyl chloride | 205 mmol, 15 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | 5 drops | N1=CC=CC=C1 | C5H5N
product | 3,4-dibenzyloxybenzoyl chloride | C(C1=CC=CC=C1)OC=1C=C(C(=O)Cl)C=CC1OCC1=CC=CC=C1 | C21H17ClO3
